US04129590
A 6.6 g portion of 8-amino-1,3,6-naphthalenetrisulfonic acid trisodium salt and 2.92 g of sodium acetate trihydrate are dissolved in 180 ml of water at 2° C. A 4.0 g portion of 3-nitrosulfobenzoic anhydride is added with stirring. A 400 ml portion of water is added and the mixture is allowed to stand 21/2 hours, filtered and the filtrate is cooled, acidified with 2-3 ml of hydrochloric acid and diluted with ethanol. The pink solid is collected by filtration, washed with 85% ethanol, ether and dried giving 2.5 g of 8-(3-nitro-2-sulfobenzamido)-1,3,6-naphthalene trisulfonic acid, tetrasodium salt.

reactant | 8-amino-1,3,6-naphthalenetrisulfonic acid trisodium salt | [Na+].[Na+].[Na+].NC=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)[O-])S(=O)(=O)[O-])S(=O)(=O)[O-]
reactant | sodium acetate trihydrate | 2.92 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | 3-nitrosulfobenzoic anhydride | [N+](=O)([O-])C=1C(=C(C(=O)OC(C2=C(C(=CC=C2)[N+](=O)[O-])S(=O)(=O)O)=O)C=CC1)S(=O)(=O)O | C14H8N2O13S2
solvent | water | 180 ml | O | H2O
product | 8-(3-nitro-2-sulfobenzamido)-1,3,6-naphthalene trisulfonic acid | 2.5 g | [N+](=O)([O-])C=1C(=C(C(=O)NC=2C=C(C=C3C=C(C=C(C23)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O)C=CC1)S(=O)(=O)O | C17H12N2O15S4
